US08580785B2
d) Preparation of 6-Nitro-5-trifluoromethanesulfonyloxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester
A solution of 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester (6.82 g, 21.569 mmol) methylene chloride (50 ml) is treated with triethylamine (6.69 g, 23.726 mmol) and a catalytic amount of 4-dimethylamino pyridine (0.26 g, 2.157 mmol). To this solution is added trifluormethansulphonic anhydride, maintaining the temperature at 25° C. TLC analysis after 1 hr shows reaction completion. The reaction mixture is diluted with methylene chloride and then washed successively with dilute aqueous hydrochloric acid, water, saturated aqueous sodium bicarbonate, and water. The methylene chloride phase is dried over anhydrous sodium sulphate, filtered, and concentrated in vacuo. The residue is purified by flash chromatography, eluting with 9:1 hexane:ethyl acetate to give the title compound (6.6 g, 68%) as pale yellow crystals.

reactant | 5-Hydroxy-6-nitro-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 21.569 mmol, 50 ml, 6.82 g | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)O)[N+](=O)[O-] | C12H7F3N2O5
reactant | triethylamine | 23.726 mmol, 6.69 g | C(C)N(CC)CC | C6H15N
reactant | trifluormethansulphonic anhydride | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
catalyst | 4-dimethylamino pyridine | 2.157 mmol, 0.26 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-Nitro-5-trifluoromethanesulfonyloxy-2-trifluoromethyl-quinoline-7-carboxylic acid methyl ester | 6.6 g, 68% | COC(=O)C1=C(C(=C2C=CC(=NC2=C1)C(F)(F)F)OS(=O)(=O)C(F)(F)F)[N+](=O)[O-] | C13H6F6N2O7S
